US08309059B2
Sodium 1,2,3,4-tetrahydroquinoline-7-sulfonate.
1,2,3,4-tetrahydroquinoline was added dropwise to 40 mL fuming sulfuric acid at 0° C. over 15 minutes. This mixture was then heated to 100° C. for 1 hour with stirring. After cooling to 0° C. saturated NaCl (aqueous) was added drop wise, precipitating the crude product as a white solid. The solid was washed, first with cold isopropanol, followed by diethyl ether, then dried under vacuum to give the desired product as a white solid. 1H-NMR (300 MHz, d6 DMSO): δ 7.43 (m, 2H), 7.21 (d, 1H), 3.38 (m, 2H), 2.81 (t, 2H) 1.96 (m, 2H) ppm; MS m/z calculated for C9H10NO3S (M−): 212.04. Found 212.0 (M−, ESI−).

reactant | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
reactant | NaCl | [Na+].[Cl-]
reactant | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
product | Sodium 1,2,3,4-tetrahydroquinoline-7-sulfonate | N1CCCC2=CC=C(C=C12)S(=O)(=O)[O-].[Na+] | InChI=1S/C9H11NO3S.Na/c11-14(12,13)8-4-3-7-2-1-5-10-9(7)6-8;/h3-4,6,10H,1-2,5H2,(H,11,12,13);/q;+1/p-1
